US05151545
Ethyl (E)-5 5-Di(4-chlorophenyl)-2,4-pentadienoate
By the method of Preparation 1, 4,4'-dichlorobenzophenone (5.00 g, 19.9 mmol) was hologated using triethyl 4-phosphonocrotonate (5.23 g, 20.9 mmol) and sodium hydride (0.528 g, 22 mmol) to give, after purification, 1.94 g (28% yield) of title product, mp 99-100° C.

reactant | 4,4'-dichlorobenzophenone | 19.9 mmol, 5.00 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | triethyl 4-phosphonocrotonate | 20.9 mmol, 5.23 g | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | sodium hydride | 22 mmol, 0.528 g | [H-].[Na+]
product | Ethyl (E)-5 5-Di(4-chlorophenyl)-2,4-pentadienoate | 1.94 g, 28% yield | ClC1=CC=C(C=C1)C(=C/C=C/C(=O)OCC)C1=CC=C(C=C1)Cl | C19H16Cl2O2
